US07470680B2
9-fluoro-3-(piperidin-4-yl)-4,5-dihydro-1H-benzo[d][1,3]diazepin-2(3H)-one hydrochloride.
3-(1-Benzylpiperidin-4-yl)-9-fluoro-4,5-dihydro-1H-benzo[d][1,3]diazepin-2(3H)-one (530 mg, 1.500 mmol) was suspended in 1,2-dichloroethane (10 mL). Mixture was cooled to 0° C. 1-Chloroethyl chloroformate (175 μl, 1.603 mmol) was added to the mixture drop-wise. Reaction was then warmed to reflux and held for 45 minutes. Mixture was concentrated by roto-vap. Residue was dissolved in methanol (10 mL). Reaction was warmed to reflux and held with stirring for 3 hours. Mixture was concentrated by roto-vap. Residue was treated with 20 mL acetone and warmed to reflux for 20 minutes. Resulting solids were filtered off and washed with acetone. Title compound was obtained as tan solid in 67% yield. MS (M+H)+=264.4.

reactant | 3-(1-Benzylpiperidin-4-yl)-9-fluoro-4,5-dihydro-1H-benzo[d][1,3]diazepin-2(3H)-one | 1.500 mmol, 530 mg | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2F)=O | C21H24FN3O
reactant | 1-Chloroethyl chloroformate | 1.603 mmol, 175 μl | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 9-fluoro-3-(piperidin-4-yl)-4,5-dihydro-1H-benzo[d][1,3]diazepin-2(3H)-one hydrochloride | 67% yield | Cl.FC1=CC=CC2=C1NC(N(CC2)C2CCNCC2)=O | InChI=1S/C14H18FN3O.ClH/c15-12-3-1-2-10-6-9-18(14(19)17-13(10)12)11-4-7-16-8-5-11;/h1-3,11,16H,4-9H2,(H,17,19);1H
